US07217724B2
2-Methyl-1-{7-[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethoxy]-1H-indol-3-yl}propan-2-amine
To a solution of tert-butyl (1,1-dimethyl-2-{7-[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethoxy]-1H-indol-3-yl}ethyl)carbamate (166 mg, 0.373 mmol) in methylene chloride (2 mL) is added a 4N hydrogen chloride solution in dioxane (0.5 mL), and the mixture is stirred at room temperature for 3 hours. The reaction solution is poured into a saturated aqueous sodium hydrogen carbonate solution, and the mixture is extracted with chloroform. The organic layer is dried over anhydrous magnesium sulfate, and the solvent is evaporated. The obtained crude product is purified by silica gel column chromatography (a saturated ammonia solution in chloroform ) a saturated ammonia solution in chloroform-methanol=50:1) to give the title compound (68.4 mg, yield: 53%).

reactant | tert-butyl (1,1-dimethyl-2-{7-[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethoxy]-1H-indol-3-yl}ethyl)carbamate | 0.373 mmol, 166 mg | CC(CC1=CNC2=C(C=CC=C12)O[C@H](C(=O)N1CCOCC1)C)(C)NC(OC(C)(C)C)=O | C24H35N3O5
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | 2-Methyl-1-{7-[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethoxy]-1H-indol-3-yl}propan-2-amine | 68.4 mg, yield: 53% | CC(CC1=CNC2=C(C=CC=C12)O[C@H](C(=O)N1CCOCC1)C)(C)N | C19H27N3O3
